US08084643B2
Upon stirring a mixture of florfenicol (8.8 g, 1 equivalent), diisopropylethylamine (5 mL, 1.2 equivalents), and 4-N,N-dimethylaminopyridine (1.2 g, 0.4 equivalent) in tetrahydrofuran (90 mL) at −20° C., a solution of 4-bromobutyryl chloride (5 g, 1.1 equivalent) in tetrahydrofuran (15 mL) was added via a syringe. The solution was stirred at room temperature under a nitrogen atmosphere overnight and diluted with ethyl acetate. The resulting solution was washed with 1 M HCl(aq) and the organic layer was separated and concentrated to give a brown oil. The crude oil was purified by gel column chromatography to give 4-bromo-butyric acid 2-(2,2-dichloro-acetyl amino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propyl ester (5.6 g, 45% yield) as a brown foam; H1-NMR (DMSO-d6), δ=2.1 ppm (p, 2H), 2.6 ppm (t, 2H), 3.2 ppm (s, 3H), 3.5 ppm (t, 2H), 4.2-4.6 (m, 3H), 6.0 ppm (d, 1H), 6.4 ppm (s, 1H), 7.6 ppm (d, 2H), 7.9 ppm (d, 2H), 8.9 ppm (d, 2H).

reactant | florfenicol | 8.8 g, 1 equivalent | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | diisopropylethylamine | 5 mL, 1.2 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromobutyryl chloride | 5 g, 1.1 equivalent | BrCCCC(=O)Cl | C4H6BrClO
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-butyric acid 2-(2,2-dichloro-acetyl amino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propyl ester | 5.6 g, 45% yield | ClC(C(=O)NC(C(C1=CC=C(C=C1)S(=O)(=O)C)OC(CCCBr)=O)CF)Cl | C16H19BrCl2FNO5S
